US06043242
26. 2-{3-Methyl-4-[3-(3-nitroimidazo[1,2-b]pyridazin-6-ylsulfanyl)-propylsulfanyl]-pyridin-2-ylmethyl-sulfanyl}-pyrimidine-4,6-diamine hydrochloride
A suspension of 4,6-diamino-pyrimidine-2-thiol (0.36 g, 2.5 mmol) and 6-[3-(2-chloromethyl-3-methyl-pyridin-4-ylsulfanyl)-propylsulfanyl]-3-nitroimidazo[1,2-b]pyridazine (1.03 g, 2.5 mmol) in 2-propanol (50 ml) is heated under reflux for 6 h under a nitrogen atmosphere. After cooling to 4° C., the precipitate is filtered, washed with cold 2-propanol and dried in vacuo. The crude product is triturated with hot acetonitrile (15 ml), filtered and dried again in vacuo to give the title compound as an off-white solid, 1.25 g (90%). M.p. 215-224° C.

reactant | 4,6-diamino-pyrimidine-2-thiol | 2.5 mmol, 0.36 g | NC1=NC(=NC(=C1)N)S | C4H6N4S
reactant | 6-[3-(2-chloromethyl-3-methyl-pyridin-4-ylsulfanyl)-propylsulfanyl]-3-nitroimidazo[1,2-b]pyridazine | 2.5 mmol, 1.03 g | ClCC1=NC=CC(=C1C)SCCCSC=1C=CC=2N(N1)C(=CN2)[N+](=O)[O-] | C16H16ClN5O2S2
solvent | 2-propanol | 50 ml | CC(C)O | C3H8O
product | 2-{3-Methyl-4-[3-(3-nitroimidazo[1,2-b]pyridazin-6-ylsulfanyl)-propylsulfanyl]-pyridin-2-ylmethyl-sulfanyl}-pyrimidine-4,6-diamine hydrochloride | Cl.CC=1C(=NC=CC1SCCCSC=1C=CC=2N(N1)C(=CN2)[N+](=O)[O-])CSC2=NC(=CC(=N2)N)N | InChI=1S/C20H21N9O2S3.ClH/c1-12-13(11-34-20-25-15(21)9-16(22)26-20)23-6-5-14(12)32-7-2-8-33-18-4-3-17-24-10-19(29(30)31)28(17)27-18;/h3-6,9-10H,2,7-8,11H2,1H3,(H4,21,22,25,26);1H
